### PR TITLE
Fix issue #23,  minus propagates NaNs correctly

### PR DESCRIPTION
**Pull request by andrew-appel**
Fixes: #23

### CODE REVIEW

**Comment by andrew-appel** [comment]
The CI failure is `configure: error:  *** Unable to find theory Rstruct from coq-mathcomp-analysis`, which seems unrelated to my change to the specification of `fiminus`.  Can some mathcomp-analysis configuration expert take a look at this?

File: libvalidsdp/float_infnan_spec.v [hunk 1]
```diff
@@ -68,6 +68,16 @@ Record Float_infnan_spec := {
   fiplus_spec_f x y : finite x -> finite y ->
     Rabs (fplus (FIS2FS x) (FIS2FS y)) < m -> finite (fiplus x y);
 
+  (** Subtraction. *)
+  fiminus : FIS -> FIS -> FIS;
+
+  fiminus_spec' x y : finite (fiminus x y) -> 
+    FIS2FS (fiminus x y) = fplus (FIS2FS x) (fopp (FIS2FS y));
```
Comment (proux01) [inline libvalidsdp/float_infnan_spec.v:75]: Maybe the more generic
```suggestion
  fiminus_spec' x y : finite x -> finite y -> 
    FIS2FS (fiminus x y) = fplus (FIS2FS x) (fopp (FIS2FS y));
```
is enough?

File: libvalidsdp/coqinterval_infnan.v [hunk 2]
```diff
@@ -550,6 +550,7 @@ Qed.
 Lemma fiopp_spec x : finite (fiopp x) -> FI2FS (fiopp x) = fopp (FI2FS x) :> R.
 Proof. intros _; apply fiopp_spec_aux. Qed.
 
+
```
Comment (proux01) [inline libvalidsdp/coqinterval_infnan.v:553]:
```suggestion
```

File: libvalidsdp/float_infnan_spec.v [hunk 3]
```diff
@@ -103,38 +113,42 @@ Record Float_infnan_spec := {
   ficompare_spec_eq_f x y : ficompare x y = FEq -> (finite x <-> finite y)
 }.
 
-Section Derived_spec.
-
-Variable fs : Float_infnan_spec.
 
-Lemma m_pos : 0 <= m fs.
+Lemma FS_val_inj:
+  forall format x y, (@FS_val format) x = FS_val y -> x = y.
```
Comment (proux01) [inline libvalidsdp/float_infnan_spec.v:118]: This is exactly `val_inj`
```suggestion
Lemma FS_val_inj : forall format x y, (@FS_val format) x = FS_val y -> x = y.
Proof. move=> format; exact: val_inj. Qed.
```
So I guess we should get rid of it

File: libvalidsdp/float_infnan_spec.v [hunk 4]
```diff
@@ -103,38 +113,42 @@ Record Float_infnan_spec := {
...
-Lemma fiminus_spec_fr x y : finite (fiminus x y) -> finite y.
-Proof. intro H; apply fiopp_spec_f1, (fiplus_spec_fr H). Qed.
+Section Derived_spec.
+
+Variable fs : Float_infnan_spec.
 
-Lemma fiminus_spec_f x y : finite x -> finite y ->
-  Rabs (fminus (FIS2FS x) (FIS2FS y)) < m fs -> finite (fiminus x y).
+Lemma fiminus_spec (x y: FIS fs) : finite (fiminus x y) ->
+    FIS2FS (fiminus x y) = fminus (FIS2FS x) (FIS2FS y) :> R.
```
Comment (proux01) [inline libvalidsdp/float_infnan_spec.v:141]: Again
```
Lemma Build_FS_of_ext :
  forall format x y (Hx : is_true (format x)) (Hy : is_true (format y)), x = y ->
        @Build_FS_of format x Hx = @Build_FS_of format y Hy.
Proof. by move=> format x y Hx Hy xy; exact: val_inj. Qed.
```

File: libvalidsdp/primitive_floats_infnan.v [hunk 5]
```diff
@@ -162,6 +162,55 @@ Section Primitive_float_infnan.
       apply BSN_Bplus_congr.
   Qed.
 
+  Lemma BSN_Bminus_congr:
+   forall prec emax Hprec Hprec' Hmax Hmax' mode x y,
+     @BinarySingleNaN.Bminus prec emax Hprec Hmax mode x y = 
+     @BinarySingleNaN.Bminus prec emax Hprec' Hmax' mode x y.
```
Comment (proux01) [inline libvalidsdp/primitive_floats_infnan.v:168]: bikeshedding
```suggestion
  Lemma BSN_Bminus_congr prec emax Hprec Hprec' Hmax Hmax' mode x y :
    @BinarySingleNaN.Bminus prec emax Hprec Hmax mode x y = 
    @BinarySingleNaN.Bminus prec emax Hprec' Hmax' mode x y.
```

**Review by proux01 — COMMENTED** [review]
Mostly looks good

**Comment by proux01** [comment]
> The CI failure is `configure: error: *** Unable to find theory Rstruct from coq-mathcomp-analysis`, which seems unrelated to my change to the specification of `fiminus`. Can some mathcomp-analysis configuration expert take a look at this?

Probably due to the new reals-stdlib package (that avoid depending on the whole analysis library when we are in fact not using most of it) I'm having a look in a separate PR.

**Comment by proux01** [comment]
@andrew-appel thanks for the PR, sorry for the CI issue, it's now fixed but the remaining issue unfortunately seems an actual one with fiminus

**Comment by andrew-appel** [comment]
Don't merge this yet, I want to do some work on the Nan structure in libvalidsdp/binary_infnan.v, for better compatibility with VCFloat and LAProof.

**Comment by proux01** [comment]
No, CI is green (this time without Admitted) and the change is already reasonable by itself, so let's merge.
Further improvements are of course welcome, but let's introduce them in a new PR.
Hopefully, I'll avoid repeating all the mistakes I made here:
* editing your PR without first seeking your agreement to do so
* accidentally pushing an Admitted
* all this leading you to an accidental merge that both reintroduced my Admitted and erased some of my edits
